US04024128
8.05 Ml. of dimethylcarbamoyl chloride are added dropwise while cooling at about 25° C. in the course of 3 minutes to a solution of 21.5 g. of 2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide hydrochloride and 24.5 ml. of triethylamine in 400 ml. of methanol and the mixture is subsequently stirred for a further 15 hours, during which a crystalline precipitate results. By evaporation of the solvent in vacuo and digestion and washing of the crystalline evaporation residue with water, there is obtained 3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide, m.p. 192°-193° C.

reactant | dimethylcarbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | 2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide hydrochloride | Cl.C1CNCCC2=C1C=CC(=C2)S(=O)(=O)N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide | CN(C(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)N)C | C13H19N3O3S
